US06303593B1
1-Benzyl-3-(SR)-hydroxymethyl-4-(RS)-(3-thienyl)pyrrolidine
To a solution of 0.55 g (1.84 mmol) of 1-benzyl-3-(SR)-carbomethoxy-4-(RS)-(3-thienyl)pyrrolidine in 30 mL of THF at 0° C. was added 1.84 mL (1.84 mmol) of a 1M solution of lithium aluminum hydride in THF and the reaction was stirred at rt for 12 h. To the reaction mixture was then added 5 mL of EtOAc and 2 mL of 2N NaOH. The reaction mixture was extracted with ether and the combined organic fractions were washed with 2N NaOH solution and sat'd NaCl. The organic fractions were dried over Na2SO4, filtered and the filtrate was concentrated to give 0.49 g of the title compound which was used without further purification. 1H NMR (CDCl3) δ7.28-7.36 (m, 7H), 7.03 (d, 1H, J=4.1 Hz), 3.66-3.78 (m, 5H).

reactant | 1-benzyl-3-(SR)-carbomethoxy-4-(RS)-(3-thienyl)pyrrolidine | 1.84 mmol, 0.55 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CSC=C1)C(=O)OC | C17H19NO2S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
reactant | NaOH | 2N, 2 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-3-(SR)-hydroxymethyl-4-(RS)-(3-thienyl)pyrrolidine | 0.49 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CSC=C1)CO | C16H19NOS
